US06211199B1
Alternately, combine methyl 2-methoxy-5-aminobenzoate (1.0 g, 5.6 mmol) and 12 M aqueous hydrochloric acid solution (1.2 g and cool in an ice bath. Add a solution of sodium nitrite (0.37 g, 5.3 mmol) in water (3 mL). After 1.5 hours, add ethyl xanthic acid, sodium salt (0.76 g, 6.3 mmol) and sodium carbonate (0.67 g, 6.3 mmol). After 2 hours, evaporate in vacuo and add sodium sulfide (0.69 g, 2.7 mmol) and a 1 M aqueous sodium hydroxide solution (10 mL). After 4 hours, add dimethylsulfate and heat to reflux. After 24 hours, cool to ambient temperature, acidify with 12 M hydrochloric acid solution and extract with ethyl acetate. Separate the organic layer, extract with brine, dry over Na2SO4, filter, and evaporate in vacuo to give a residue. Chromatograph the residue on silica gel eluting with ethyl acetate/hexane 2/1 to give methyl 2-methoxy-5-methylthiobenzoate. Elemental Analysis calculated for C9H12O3S: C, 54.53; H, 5.08. Found: C, 54.64; H, 4.95.

reactant | methyl 2-methoxy-5-aminobenzoate | 5.6 mmol, 1.0 g | COC1=C(C(=O)OC)C=C(C=C1)N | C9H11NO3
reactant | hydrochloric acid | 12 M | Cl | ClH
reactant | sodium nitrite | 5.3 mmol, 0.37 g | N(=O)[O-].[Na+]
reactant | ethyl xanthic acid | C(C)OC(=S)S | C3H6OS2
reactant | sodium | 6.3 mmol, 0.76 g | [Na] | Na
reactant | sodium carbonate | 6.3 mmol, 0.67 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | sodium sulfide | 2.7 mmol, 0.69 g | [S-2].[Na+].[Na+]
reactant | sodium hydroxide | 1 M, 10 mL | [OH-].[Na+]
reactant | dimethylsulfate | COS(=O)(=O)OC | C2H6O4S
reactant | hydrochloric acid | 12 M | Cl | ClH
solvent | water | 3 mL | O | H2O
solvent | ethyl acetate hexane | C(C)(=O)OCC.CCCCCC
product | methyl 2-methoxy-5-methylthiobenzoate | COC1=C(C(=S)OC)C=C(C=C1)C | C10H12O2S
